US08008307B2
Step a: 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-6-chloro-5-fluoropyrimidine
To a stirred suspension of sodium hydride (37.4 mg, 0.93 mmol) in THF (5.00 mL) was added a solution of (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanol (285 mg, 0.79 mmol) in THF (2.50 mL) at 0° C. under an atmosphere of Argon, and the mixture was stirred for 15 minutes. To this cooled suspension was added a solution of 4,6-dichloro-5-fluoropyrimidine (120 mg, 0.72 mmol) in THF (2.50 mL) at 0° C., and the resulting mixture was stirred for 19 h at 23° C. After quenching by addition of saturated NH4Cl solution (50.0 mL), the mixture was extracted with ethyl acetate (3×70.0 mL). The organic layers were combined, dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified via silica gel column chromatography eluting with a gradient of 5 to 7% ethyl acetate in hexanes to afford the title compound (295 mg, 79%). 1H-NMR (400 MHz, CDCl3) δ: 8.32 (s, 1H), 5.67-5.61 (m, 1m), 4.41-4.37 (m, 1H), 3.73 (dd, 1H, 1=9.8, 7.1 Hz), 3.59 (dd, 1H, 1=9.8, 6.6 Hz), 2.33-2.25 (m, 1H), 2.10-1.96 (m, 2H), 1.90 (ddd, 1H, 1=13.8, 7.7, 1.8 Hz), 1.55 (s, 18H), 0.89 (s, 6H), 0.88 (s, 6H).

reactant | sodium hydride | 0.93 mmol, 37.4 mg | [H-].[Na+]
reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentanol | 0.79 mmol, 285 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)O | C18H40O3Si2
reactant | 4,6-dichloro-5-fluoropyrimidine | 0.72 mmol, 120 mg | ClC1=NC=NC(=C1F)Cl | C4HCl2FN2
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
solvent | THF | 2.50 mL | C1CCOC1 | C4H8O
solvent | THF | 2.50 mL | C1CCOC1 | C4H8O
product | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-6-chloro-5-fluoropyrimidine | 295 mg, 79% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1F)Cl | C22H40ClFN2O3Si2
